### PR TITLE
feat: Add Erdős Problem 330: Minimal bases with positive density

### PR DESCRIPTION
**Pull request by ayush31010**
Description

This PR introduces Erdős Problem 330 into the repository.

Conjecture statement:
Suppose 
𝐴
⊂
𝑁
A⊂N is a minimal basis with positive density. Is it true that, for any 
𝑛
∈
𝐴
n∈A, the (upper) density of integers which cannot be represented without using 
𝑛
n is positive?

Status: open

Reference: [Erdős Problems #330](https://www.erdosproblems.com/330)

Implementation Notes

Imported Density from ForMathlib to formalize the density concepts.

Currently, no basis abstraction exists in the library; an ad-hoc definition has been included to capture the notion of a minimal basis for natural numbers.

The problem statement has been added in a way consistent with the existing problem formatting (AMS, Problem Category, and docstring).

Next Steps

Review the ad-hoc basis definition: should it be promoted to a general utility in ForMathlib or remain local to this problem file?

Explore preliminary lemmas regarding density and minimality that may help in approaching the conjecture.

### CODE REVIEW

**Comment by mo271** [comment]
This currently only contains an empty file.

**Comment by mo271** [comment]
Please make sure to run the lean file locally and check for linter outputs.

**Comment by ayushdebnath012** [comment]
Sorry for that included the file and checked it locally everything is fine

**Comment by mo271** [comment]
I think we can use the definitions in [Basis.lean](https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/ForMathlib/Combinatorics/Additive/Basis.lean) here.

**Comment by ayushdebnath012** [comment]
Used basis

**Comment by ayushdebnath012** [comment]
unexpected token '/'; expected command
invalid 'import' command, it must be used in the beginning of the file

Getting these errors don't know why

**Comment by Paul-Lez** [comment]
Note that the PR currently doesn't contain any conjecture statement

**Comment by ayushdebnath012** [comment]
Fixed it

**Comment by ayushdebnath012** [comment]
Is there anything else to be fixed here?

**Comment by ayushdebnath012** [comment]
It is working in my local setup

**Comment by mo271** [comment]
Note that the PR currently doesn't contain any conjecture statement

**Comment by mo271** [comment]
Very generally speaking: it would help if you took a look at how imports/namespaces/comments/docstrings/attributes are done in other files in this repo and follow those examples, because all of those are in a not done in the way the other problems do it and we strive for consistency here.

**Comment by ayushdebnath012** [comment]
Can we merge this pr?

File: FormalConjectures/ErdosProblems/330.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+
+/-!
+# Erdős Problem 330
+
+*Reference:* [erdosproblems.com/330](https://www.erdosproblems.com/330)
+
+Suppose `A ⊂ ℕ` is a minimal basis with positive density.
+Is it true that, for any `n ∈ A`, the (upper) density of integers which cannot be
+represented without using `n` is positive?
+-/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean:23]: Please take a look at how docstrings are done in other files in this repo: usually don't want to include an informal description on the main docstring for the file.

File: FormalConjectures/ErdosProblems/330.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+
+namespace FormalConjectures
+namespace ErdosProblems
+namespace «330»
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: Please take a look at how namespaces are done in other files in this repo: usually we only want to open one namespace.

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Did it plz do if there are minor changes.

File: FormalConjectures/ErdosProblems/330.lean (hunk 1 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean:23]: Done

**Comment by ayushdebnath012** [comment]
Can we merge this pr?

**Comment by ayushdebnath012** [comment]
Is there any other change to be done here?

File: FormalConjectures/ErdosProblems/330.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+without using `n` has positive density?
+-/
+@[category research open, AMS 5]
+theorem erdos_330 :
+    ∀ (h : ℕ) (A : Set ℕ),
+      2 ≤ h →
+      Basis A h →
+      A.HasPosDensity →
+      (∀ n ∈ A, (UnrepWithout A h n).HasPosDensity) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/330.lean]: Our convention is that this should use the `answer(sorry)` formulation since the question doesn't seem to imply that the answer to this problem is thought to be "true".

File: FormalConjectures/ErdosProblems/330.lean [hunk 4]
```diff
@@ -0,0 +1,60 @@
...
+def Rep_h (A : Set ℕ) (h m : ℕ) : Prop :=
+  ∃ s : Multiset ℕ, (∀ a ∈ s, a ∈ A) ∧ s.card = h ∧ s.sum = m
+
+/-- `A` is an asymptotic additive basis of order `h`. -/
+def IsAsymptoticBasisOfOrder (A : Set ℕ) (h : ℕ) : Prop :=
+  ∀ᶠ m in atTop, Rep_h A h m
+
+/-- `Basis A h` means `A` is a minimal asymptotic basis of order `h`. -/
+def Basis (A : Set ℕ) (h : ℕ) : Prop :=
+  IsAsymptoticBasisOfOrder A h ∧ ∀ n ∈ A, ¬ IsAsymptoticBasisOfOrder (A \ {n}) h
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/330.lean]: Note that `ForMathlib` already contains some basic API about bases: see [this folder](https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/ForMathlib/Combinatorics/Additive/Basis.lean).

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Changed it

File: FormalConjectures/ErdosProblems/330.lean (hunk 3 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Changed

File: FormalConjectures/ErdosProblems/330.lean (hunk 4 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/330.lean]: Are you sure you made the right change?

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Look at it now and plz tell me where it is wrong

File: FormalConjectures/ErdosProblems/330.lean [hunk 5]
```diff
@@ -0,0 +1,67 @@
...
+/-- `Rep_h A m` means `m` is a sum of exactly `h` terms from `A`. -/
+def Rep_h (A : Set ℕ) (h m : ℕ) : Prop :=
+  ∃ (f : Fin h → ℕ), (∀ i, f i ∈ A) ∧ (∑ i, f i) = m
+
+/--
+Use the **additive** version of your generic API:
+
+If your to_additive generated the name `Set.IsAsymptoticAddBasisOfOrder`, this alias
+plugs it in for `A : Set ℕ`. If your project used a different additive name, just
+swap that identifier below (only here).
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: Why using "your" here? If you are using a coding agent to write the code here, please make sure that distracting traces of that are removed. We don't need part of the prompting conversation in the end result.

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: done

**Comment by ayushdebnath012** [comment]
Is it good to merge

**Comment by ayushdebnath012** [comment]
Anything else to be done

**Comment by ayushdebnath012** [comment]
Plz have a look at the code @mo271 @Paul-Lez

File: FormalConjectures/ErdosProblems/330.lean (hunk 4 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/330.lean]: The suggestion here is to use `Set.IsAsymptoticAddBasis`, which is defined in the file I linked, rather than adding an extra definition.

File: FormalConjectures/ErdosProblems/330.lean [hunk 6]
```diff
@@ -0,0 +1,52 @@
...
+def UnrepWithout (A : Set ℕ) (h n : ℕ) : Set ℕ :=
+  {m | ¬ Rep_h (A \ {n}) h m}
+
+@[category research open, AMS 5]
+theorem erdos_330_answer :
+    ∀ (h : ℕ) (A : Set ℕ),
+      2 ≤ h →
+      MinAsymptoticBasisOfOrder A h →
+      A.HasPosDensity →
+      (∀ n ∈ A, (UnrepWithout A h n).HasPosDensity) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/330.lean]: You seem to have accidentally removed `answer(sorry)` here. Note also that the theorem should have a docstring including the informal problem statement.

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Fixed it

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Fixed it @Paul-Lez

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/330.lean]: Please check the diff

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: @Paul-Lez look at it now

Comment (mo271) [reply FormalConjectures/ErdosProblems/330.lean]: Currently this pr deletes 5 files, which is probably not intented.

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: I have restored all the files can you make the necessary changes

File: FormalConjectures/ErdosProblems/330.lean [hunk 7]
```diff
@@ -0,0 +1,65 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import Mathlib.Data.Nat.Basic
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/330.lean [hunk 8]
```diff
@@ -0,0 +1,65 @@
...
+of `A` while avoiding `n` (i.e., `UnrepWithout A h n`) has positive (upper) density.
+
+Equivalently: if `A` is a minimal basis, each element `n` is “essential” on a positive-density set of sums. -/
+theorem erdos_330_answer :
+    ∀ (h : ℕ) (A : Set ℕ),
+      2 ≤ h →
+      MinAsymptoticBasisOfOrder A h →
+      A.HasPosDensity →
+      (∀ n ∈ A, (UnrepWithout A h n).HasPosDensity) :=
+  answer(sorry)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: this is not how the `answer(sorry)` works, please see other files how it is done.

File: FormalConjectures/ForMathlib/Data/Nat/Squarefree.lean [hunk 9]
```diff
@@ -97,7 +97,4 @@ theorem squarePart_zero : squarePart 0 = 0 := by simp [squarePart]
 theorem squarefreePart_mul_squarePart (n : ℕ) : n.squarefreePart * n.squarePart = n :=
   Nat.mul_div_eq_iff_dvd.2 n.squarefreePart_dvd
 
-theorem squarefree_infinite : Set.Infinite { n : ℕ | Squarefree n } :=
-  Set.Infinite.mono (fun _ hp ↦ hp.squarefree) Nat.infinite_setOf_prime
-
```
Comment (mo271) [inline FormalConjectures/ForMathlib/Data/Nat/Squarefree.lean:102]: why is this deleted?

Comment (ayushdebnath012) [reply FormalConjectures/ForMathlib/Data/Nat/Squarefree.lean:102]: Resolved it

File: FormalConjectures/ErdosProblems/330.lean (hunk 8 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Changed it

**Comment by ayushdebnath012** [comment]
Any other change to be done?

File: FormalConjectures/ErdosProblems/330.lean (hunk 4 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/330.lean]: @Solventerritory You haven't addressed this comment yet.

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Done!!

**Comment by ayushdebnath012** [comment]
I can't understand where it is wrong can u plz fix this

File: FormalConjectures/ErdosProblems/330.lean [hunk 10]
```diff
@@ -0,0 +1,56 @@
...
+/-- Integers not representable as a sum of `h` elements of `A` **without** using `n`. -/
+def UnrepWithout (A : Set ℕ) (h n : ℕ) : Set ℕ :=
+  {m | ¬ Rep_h (A \ {n}) h m}
+
+/-- Minimality built on top of the library predicate `Set.IsAsymptoticAddBasis`. -/
+def MinAsymptoticAddBasis (A : Set ℕ) (h : ℕ) : Prop :=
+  Set.IsAsymptoticAddBasis A h ∧
+    ∀ n ∈ A, ¬ Set.IsAsymptoticAddBasis (A \ {n}) h
+
+/-- **Erdős Problem 330 (informal).**
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
/--
```

**Comment by ayushdebnath012** [comment]
function expected at
  (A \ {n}).IsAsymptoticAddBasis
term has type
  Prop
function expected at
  A.IsAsymptoticAddBasis
term has type
  Prop
  
  I don't know how to solve this issue plz help

**Comment by ayushdebnath012** [comment]
Plz help me run the code idk where it is wrong @mo271 @Paul-Lez

**Comment by ayushdebnath012** [comment]
Why is the run failing? I have done it as you said @Paul-Lez

**Comment by ayushdebnath012** [comment]
Can you please help me out with this? @mo271 @Paul-Lez

File: FormalConjectures/ErdosProblems/330.lean [hunk 11]
```diff
@@ -0,0 +1,51 @@
...
+
+*Reference:* [erdosproblems.com/330](https://www.erdosproblems.com/330)
+-/
+
+namespace Erdos330
+
+open scoped BigOperators
+
+/-- `Rep_h A h m` means `m` is a sum of `h` elements of `A`. -/
+def Rep_h (A : _root_.Set ℕ) (h m : ℕ) : Prop :=
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: Why are you suddently using `_root_` here and elsewhere?

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: I was trying to fix the error... I have fixed it removed root

File: FormalConjectures/ErdosProblems/330.lean (hunk 6 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/330.lean]: You seem to have accidentally removed `answer(sorry)` here.

**Comment by ayushdebnath012** [comment]
It has passed the checks can we merge it now @mo271

File: FormalConjectures/ErdosProblems/330.lean (hunk 6 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: @mo271 Check it is there

File: FormalConjectures/ErdosProblems/330.lean [hunk 12]
```diff
@@ -0,0 +1,52 @@
...
+  ∃ f : Fin h → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin h, f i) = m
+
+/-- Integers not representable as a sum of `h` elements of `A` without using `n`. -/
+def UnrepWithout (A : Set ℕ) (h n : ℕ) : Set ℕ :=
+  {m | ¬ Rep_h (A \ {n}) h m}
+
+/-- Minimality built on `Set.IsAsymptoticAddBasisOfOrder`. -/
+def MinAsymptoticAddBasis (A : Set ℕ) (h : ℕ) : Prop :=
+  Set.IsAsymptoticAddBasisOfOrder A h ∧
+    ∀ n ∈ A, ¬ Set.IsAsymptoticAddBasisOfOrder (A \ {n}) h
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: Perhaps better correct to get rid of the explicit `h` here.

File: FormalConjectures/ErdosProblems/330.lean [hunk 13]
```diff
@@ -0,0 +1,52 @@
...
+
+@[category research open, AMS 5 11]
+theorem erdos_330_statement
+    (h : ℕ) (A : Set ℕ)
+    (h2 : 2 ≤ h)
+    (hmin : MinAsymptoticAddBasis A h)
+    (hden : Set.HasPosDensity A) :
+    ∀ n ∈ A, Set.HasPosDensity (UnrepWithout A h n) ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: We should not use the `h` here, since it is not used in the original informal statement. 
This also means defining UnrepWithout and Rep without using the explicit numbers of elements.

**Review by mo271 — CHANGES_REQUESTED** [review]

File: FormalConjectures/ErdosProblems/330.lean (hunk 12 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Removed explicit h

File: FormalConjectures/ErdosProblems/330.lean (hunk 13 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Removed explicit h

File: FormalConjectures/ErdosProblems/330.lean [hunk 14]
```diff
@@ -0,0 +1,57 @@
...
+
+/-- Order-agnostic: “`A` is an asymptotic additive basis of **some** order `h ≥ 2`.” -/
+def IsAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  ∃ h : ℕ, 2 ≤ h ∧ Set.IsAsymptoticAddBasisOfOrder A h
+
+/-- Order-agnostic minimality: removing any single element destroys the AAB property
+    (for *every* order). -/
+def MinAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  IsAsymptoticAddBasis A ∧
+    ∀ ⦃n⦄, n ∈ A → ¬ IsAsymptoticAddBasis (A \ {n})
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
  IsAsymptoticAddBasis A ∧ ∀ n ∈ A, ¬ IsAsymptoticAddBasis (A \ {n})
```

File: FormalConjectures/ErdosProblems/330.lean [hunk 15]
```diff
@@ -0,0 +1,57 @@
...
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: docstring is missing again

File: FormalConjectures/ErdosProblems/330.lean [hunk 16]
```diff
@@ -0,0 +1,57 @@
...
+def Rep (A : Set ℕ) (m : ℕ) : Prop :=
+  ∃ k : ℕ, ∃ f : Fin k → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin k, f i) = m
+
+/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
+
+/-- Order-agnostic: “`A` is an asymptotic additive basis of **some** order `h ≥ 2`.” -/
+def IsAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  ∃ h : ℕ, 2 ≤ h ∧ Set.IsAsymptoticAddBasisOfOrder A h
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]: we already have `IsAsymptoticAddBasis` in `ForMathlib`, so this can just be deleted, I suppose

File: FormalConjectures/ErdosProblems/330.lean [hunk 17]
```diff
@@ -0,0 +1,57 @@
...
+def MinAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  IsAsymptoticAddBasis A ∧
+    ∀ ⦃n⦄, n ∈ A → ¬ IsAsymptoticAddBasis (A \ {n})
+
+@[category research open, AMS 5 11]
+theorem erdos_330_statement
+    (A : Set ℕ)
+    (hmin : MinAsymptoticAddBasis A)
+    (hden : Set.HasPosDensity A) :
+    ∀ n ∈ A, Set.HasPosDensity (UnrepWithout A n) ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
theorem erdos_330_statement : 
    (∀ (A : Set ℕ),  MinAsymptoticAddBasis A →  A.HasPosDensity →  
    ∀ n ∈ A, Set.HasPosDensity (UnrepWithout A n)) ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/330.lean (hunk 16 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: Deleted

File: FormalConjectures/ErdosProblems/330.lean (hunk 15 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: added docstring

File: FormalConjectures/ErdosProblems/330.lean [hunk 18]
```diff
@@ -0,0 +1,54 @@
...
+    (i.e., representable by *some* finite number of terms, not a fixed order). -/
+def Rep (A : Set ℕ) (m : ℕ) : Prop :=
+  ∃ k : ℕ, ∃ f : Fin k → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin k, f i) = m
+
+/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
+
+/-- Order-agnostic: “`A` is an asymptotic additive basis of **some** order `h ≥ 2`.” -/
+def IsAsymptoticAddBasis (A : Set ℕ) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/330.lean]: Note that we already have `Set.IsAsymptoticAddBasis`

File: FormalConjectures/ErdosProblems/330.lean [hunk 19]
```diff
@@ -0,0 +1,54 @@
...
+open scoped BigOperators
+
+/-- `Rep A m` means `m` is a sum of **finitely many** elements of `A`
+    (i.e., representable by *some* finite number of terms, not a fixed order). -/
+def Rep (A : Set ℕ) (m : ℕ) : Prop :=
+  ∃ k : ℕ, ∃ f : Fin k → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin k, f i) = m
+
+/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/330.lean:37]: I think you're not using these?
```suggestion
```

File: FormalConjectures/ErdosProblems/330.lean (hunk 18 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean]: used Set.IsAsymptoticAddBasis

**Comment by ayushdebnath012** [comment]
Check the code @mo271

File: FormalConjectures/ErdosProblems/330.lean (hunk 19 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/330.lean:37]: I think they are used?

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean:37]: What do you suggest to keep them or delete them? @mo271 @Paul-Lez

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean:37]: Added them back

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/330.lean:37]: Check @mo271

File: FormalConjectures/ErdosProblems/330.lean [hunk 20]
```diff
@@ -0,0 +1,56 @@
...
+namespace Erdos330
+
+open Set
+open scoped BigOperators
+
+/-- `Rep A m` means `m` is a sum of **finitely many** elements of `A`
+    (i.e., representable by *some* finite number of terms, not a fixed order). -/
+def Rep (A : Set ℕ) (m : ℕ) : Prop :=
+  ∃ k : ℕ, ∃ f : Fin k → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin k, f i) = m
+/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean:35]:
```suggestion
  ∃ k : ℕ, ∃ f : Fin k → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin k, f i) = m

/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
```

File: FormalConjectures/ErdosProblems/330.lean [hunk 21]
```diff
@@ -0,0 +1,56 @@
...
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
+
+/-- Order-agnostic minimality: removing any single element destroys the AAB property
+    (for *every* order). -/
+def MinAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  Set.IsAsymptoticAddBasis A ∧
+    ∀ ⦃n⦄, n ∈ A → ¬ Set.IsAsymptoticAddBasis (A \ {n})
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
  IsAsymptoticAddBasis A ∧ ∀ n ∈ A, ¬ IsAsymptoticAddBasis (A \ {n})
```

I had suggested a fix for that before, it makes the review difficult when we have to repeat fixes many times.

File: FormalConjectures/ErdosProblems/330.lean [hunk 22]
```diff
@@ -0,0 +1,56 @@
...
+/-- `Rep A m` means `m` is a sum of **finitely many** elements of `A`
+    (i.e., representable by *some* finite number of terms, not a fixed order). -/
+def Rep (A : Set ℕ) (m : ℕ) : Prop :=
+  ∃ k : ℕ, ∃ f : Fin k → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin k, f i) = m
+/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
+
+/-- Order-agnostic minimality: removing any single element destroys the AAB property
+    (for *every* order). -/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
/-- An asymptotic additive basis is minimal when one cannot obtain an asymptotic additive basis by removing any element from it. -/
```

File: FormalConjectures/ErdosProblems/330.lean [hunk 23]
```diff
@@ -0,0 +1,56 @@
...
+/--
+**Erdős Problem 330**
+
+Suppose `A ⊂ ℕ` is a minimal asymptotic additive basis with positive (upper) density.
+Is it true that, for every `n ∈ A`, the set of integers that cannot be represented
+as a finite sum of elements of `A` while avoiding `n` has positive (upper) density?
+-/
+@[category research open, AMS 5 11]
+theorem erdos_330_statement :
+    (∀ (A : Set ℕ),  MinAsymptoticAddBasis A →  A.HasPosDensity →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
    (∀ (A : Set ℕ),  MinAsymptoticAddBasis A → A.HasPosDensity →
```

File: FormalConjectures/ErdosProblems/330.lean [hunk 24]
```diff
@@ -0,0 +1,55 @@
...
+/-- `Rep A m` means `m` is a sum of **finitely many** elements of `A`
+    (i.e., representable by *some* finite number of terms, not a fixed order). -/
+def Rep (A : Set ℕ) (m : ℕ) : Prop :=
+  ∃ k : ℕ, ∃ f : Fin k → ℕ, (∀ i, f i ∈ A) ∧ (∑ i : Fin k, f i) = m
+
+/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
+
+/-- An asymptotic additive basis is minimal when one cannot obtain an asymptotic additive basis by removing any element from it. -/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
/-- An asymptotic additive basis is minimal when one cannot obtain an asymptotic
additive basis by removing any element from it. -/
```

File: FormalConjectures/ErdosProblems/330.lean [hunk 25]
```diff
@@ -0,0 +1,55 @@
...
+def MinAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  IsAsymptoticAddBasis A ∧ ∀ n ∈ A, ¬ IsAsymptoticAddBasis (A \ {n})
+/--
+**Erdős Problem 330**
+
+Suppose `A ⊂ ℕ` is a minimal asymptotic additive basis with positive (upper) density.
+Is it true that, for every `n ∈ A`, the set of integers that cannot be represented
+as a finite sum of elements of `A` while avoiding `n` has positive (upper) density?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
Suppose $A \subset \mathbb{N}$ is a minimal basis with positive density.
Is it true that, for any $n \in A$, the (upper) density of integers which 
cannot be represented without using $n$ is positive?
```

File: FormalConjectures/ErdosProblems/330.lean (hunk 19 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/330.lean:37]: Oh my bad I misread!

File: FormalConjectures/ErdosProblems/330.lean [hunk 26]
```diff
@@ -0,0 +1,56 @@
...
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
+
+/-- An asymptotic additive basis is minimal when one cannot obtain an asymptotic
+additive basis by removing any element from it. -/
+def MinAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  IsAsymptoticAddBasis A ∧ ∀ n ∈ A, ¬ IsAsymptoticAddBasis (A \ {n})
+/--
+**Erdős Problem 330**
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/330.lean [hunk 27]
```diff
@@ -0,0 +1,54 @@
...
+/-- Integers **not** representable as a finite sum of elements of `A` **while avoiding** `n`. -/
+def UnrepWithout (A : Set ℕ) (n : ℕ) : Set ℕ :=
+  {m | ¬ Rep (A \ {n}) m}
+
+/-- An asymptotic additive basis is minimal when one cannot obtain an asymptotic
+additive basis by removing any element from it. -/
+def MinAsymptoticAddBasis (A : Set ℕ) : Prop :=
+  IsAsymptoticAddBasis A ∧ ∀ n ∈ A, ¬ IsAsymptoticAddBasis (A \ {n})
+/--
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/330.lean:44]:
```suggestion
  IsAsymptoticAddBasis A ∧ ∀ n ∈ A, ¬ IsAsymptoticAddBasis (A \ {n})

/--
```

**Review by mo271 — APPROVED** [review]
LGTM now, perhaps @Paul-Lez wants to take another look?

**Comment by ayushdebnath012** [comment]
Is it good to merge? @mo271 @Paul-Lez

**Comment by Paul-Lez** [comment]
Will take a look later today

**Comment by ayushdebnath012** [comment]
Can we merge this pr? @mo271 @Paul-Lez

**Review by Paul-Lez — APPROVED** [review]
